US05773594
Ethyl 4-[(5,5-dimethyl-8-(2-thienyl)-5,6-dihydronaphthalen-2-yl)azo]benzoate (Compound D12)
To a cold solution (-78° C.) of thiophene (0.07 ml, 0.75 mmol) in 1.5 ml of THF was added t-BuLi (0.457 ml, 0.75 mmol, 1.7M in pentane) and stirred for 2 h. To this solution, ZnCl2 (168 mg, 1.2 mmol) in 1.5 ml of THF was added. The resulting solution was warmed to room temperature, stirred for 1 h and was added (via cannula) to a solution of ethyl 4-[(5,6-dihydro-5,5-dimethyl-8-trifluoromethylsulfonyloxy-naphthalen-2-yl)azo]benzoate (Compound D11, 150 mg, 0.30 mmol) and tetrakis(triphenylphosphine)palladium(O) (10.6 mg) in 2.5 ml of THF. The resulting mixture was heated at 50° C. for 2.5 h. The reaction was diluted with sat. aqueous NH4Cl and extracted with ethyl acetate. The combined organic layer was dried over Na2SO4 and concentrated to an oil. The crude product was purified by flash chromatography (silica, ethyl acetate:hexane 5:95) to afford the title compound as a red foam.

reactant | thiophene | 0.75 mmol, 0.07 ml | S1C=CC=C1 | C4H4S
reactant | t-BuLi | 0.75 mmol, 1.7M, 0.457 ml | [Li]C(C)(C)C
reactant | ethyl 4-[(5,6-dihydro-5,5-dimethyl-8-trifluoromethylsulfonyloxy-naphthalen-2-yl)azo]benzoate | 0.30 mmol, 150 mg | CC1(C=2C=CC(=CC2C(=CC1)OS(=O)(=O)C(F)(F)F)N=NC1=CC=C(C(=O)OCC)C=C1)C | C22H21F3N2O5S
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | ZnCl2 | 1.2 mmol, 168 mg | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 10.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | Ethyl 4-[(5,5-dimethyl-8-(2-thienyl)-5,6-dihydronaphthalen-2-yl)azo]benzoate | CC1(C=2C=CC(=CC2C(=CC1)C=1SC=CC1)N=NC1=CC=C(C(=O)OCC)C=C1)C | C25H24N2O2S
